* LTspice Export: OpAmp_LPF_Gain4
VVCC vcc 0 15.0
VVEE vee 0 -15.0
RRin gain_node 0 1000.0
RRf gain_node amp_out 3000.0
RRfilter amp_out out 10000.0
.model NPN_MODEL NPN(Bf=100)
.tran 10n
.save V(out)
.end